* C:\Users\micha\Desktop\PUT_Motorsport\TESTBOARD DASH\PUTM_EV_DASHBOARD_TESTBOARD\simulation\reversed_polarity_protection.asc
V2 VCC 0 PULSE(24 -24 10m 1n 1n 10m)
XU1 VCC N001 N002 STN3P6F6_V2
R2 N001 0 10k
D1 N001 N002 TDZV12
R3 N002 0 1k
C1 N001 0 22n
.model D D
.lib C:\Users\micha\AppData\Local\LTspice\lib\cmp\standard.dio
.lib stn3p6f6-v2.lib
.tran 20m
.lib C:\Users\Administrator\Desktop\Motorsport\PUTM_EV_DASHBOARD_TESTBOARD_2025\simulation\stn3p6f6-v2.lib
.backanno
.end
