* C:\Users\Administrator\Desktop\Motorsport\PUTM_EV_DASHBOARD_TESTBOARD_2025\simulation\reversed_polarity_protection.asc
V2 VCC 0 PULSE(24 -24 10m 1n 1n 10m)
XU1 vcc gate output STN3P6F6_V2
R2 gate 0 10k
D1 gate output TDZV12
R3 output 0 1k
C1 gate 0 22n
.model D D
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\cmp\standard.dio
.lib stn3p6f6-v2.lib
.tran 20m
.lib C:\Users\Administrator\Desktop\Motorsport\PUTM_EV_DASHBOARD_TESTBOARD_2025\simulation\stn3p6f6-v2.lib
.backanno
.end
